US05656573
A solution of lithium diisopropyl amide in dry tetrahydrofuran (prepared from diisopropylarnine (17.0 ml) and n-butylithium (48.4 ml) in dry tetrahydrofuran)was added to a solution of methyl 2-fluoro-6-trifluoromethylbenzoate (22.39 g) in dry tetrahydrofuran while maintaining the temperature below -70° C. The mixture was stirred at -78° C. for 3 hours. The solution was poured onto solid carbon dioxide pellets and stirred until it had warmed to room temperature. The mixture was evaporated and treated with hydrochloric acid (2 M). It was extracted with ether, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 2-fluoro-3-methoxycarbonyl-4-trifluoromethylbenzoic acid (24.43 g) as an off-white solid, NMR (CDCl3) 3.95(s,3H), 7.55(d,1H), 8.15(t,1H).

reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 2-fluoro-6-trifluoromethylbenzoate | 22.39 g | FC1=C(C(=O)OC)C(=CC=C1)C(F)(F)F | C9H6F4O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 17.0 ml | O1CCCC1 | C4H8O
product | 2-fluoro-3-methoxycarbonyl-4-trifluoromethylbenzoic acid | 24.43 g | FC1=C(C(=O)O)C=CC(=C1C(=O)OC)C(F)(F)F | C10H6F4O4
